US04762835
Phosphorus oxychloride (30 cm3) was added portionwise to 5-ethoxycarbonylmethyl-4hydroxy-2-(2-methylprop-2-yl)-pyrimidine (15.0 g). An exothermic reaction occurred and the resultant mixture was poured onto ice. After neutralisation with sodium carbonate the mixture was extracted with ethyl acetate and the extracts washed with water and dried over anhydrous magnesium sulphate. Removal of the solvent by evaporation under reduced pressure yielded 4-chloro-5-ethoxycarbonylmethyl-2-(2-methylprop-2-yl)pyrimidine (11.35 g, oil, solidified on standing, m.p. 42°-44° C.).

reactant | 5-ethoxycarbonylmethyl-4hydroxy-2-(2-methylprop-2-yl)-pyrimidine | 15.0 g | C(C)OC(=O)CC=1C(=NC(=NC1)C(C)(C)C)O | C12H18N2O3
reactant | Phosphorus oxychloride | 30 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-ethoxycarbonylmethyl-2-(2-methylprop-2-yl)pyrimidine | 11.35 g | ClC1=NC(=NC=C1CC(=O)OCC)C(C)(C)C | C12H17ClN2O2
